US04509537
1-(2-Methoxyphenoxycarbonyloxy)-2-propanol
The reaction of 2-methoxyphenyl chloroformate with propylene glycol is conducted on a 0.01 mole scale employing the same conditions as described in Example III. A 0.9 g yield of the pure product is obtained as an oil.

reactant | 2-methoxyphenyl chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | propylene glycol | C(C(C)O)O | C3H8O2
product | 1-(2-Methoxyphenoxycarbonyloxy)-2-propanol | COC1=C(OC(=O)OCC(C)O)C=CC=C1 | C11H14O5
